US06919336B2
a) (5-Bromo-2-chloro-phenyl)-[6-(2,4-difluoro-phenylamino)-pyridin-3-yl]-methanol
(5-Bromo-2-chloro-phenyl)-[6-(2,4-difluoro-phenylamino)-pyridin-3-yl]-methanone (1.5 g; 3.5 mmol) is dissolved in NEt3 (110 ml), 3-amino-3-methyl-1-butyne (1.7 ml; 15.9 mmol), CuI (200 mg; 1 mmol), PdCl2(PPh3)2 (250 mg; 0.35 mmol) added and refluxed for 45 min. Since only small amount of product is formed, more PdCl2(PPh3)2 (500 mg; 0.7 mmol), CuI (500 mg; 2.5 mmol) and 3-amino-3-methyl-1-butyne (2 ml; 18.7 mmol) is added and refluxing continued for 2.5 hours. The reaction mixture is decanted, the solvent evaporated and the residue purified by chromatography (SiO2; toluene/ethanol/NH3conc 95/5/0.2) to yield the title compound as slightly colored foam (730 mg; 48%).

reactant | (5-Bromo-2-chloro-phenyl)-[6-(2,4-difluoro-phenylamino)-pyridin-3-yl]-methanone | 3.5 mmol, 1.5 g | BrC=1C=CC(=C(C1)C(=O)C=1C=NC(=CC1)NC1=C(C=C(C=C1)F)F)Cl | C18H10BrClF2N2O
reactant | 3-amino-3-methyl-1-butyne | 15.9 mmol, 1.7 ml | NC(C#C)(C)C | C5H9N
reactant | 3-amino-3-methyl-1-butyne | 18.7 mmol, 2 ml | NC(C#C)(C)C | C5H9N
solvent | NEt3 | 110 ml | CCN(CC)CC | C6H15N
catalyst | CuI | 1 mmol, 200 mg | [Cu]I
catalyst | PdCl2(PPh3)2 | 0.35 mmol, 250 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | PdCl2(PPh3)2 | 0.7 mmol, 500 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 2.5 mmol, 500 mg | [Cu]I
product | (5-Bromo-2-chloro-phenyl)-[6-(2,4-difluoro-phenylamino)-pyridin-3-yl]-methanol | BrC=1C=CC(=C(C1)C(O)C=1C=NC(=CC1)NC1=C(C=C(C=C1)F)F)Cl | C18H12BrClF2N2O
